US05173493
A mixture of 8,9-dihydro-10-[(dimethylamino)methyl]-7-[(5-methyl-1H-imidazol-4-yl)methyl]pyrido[1,2-a]indol-6(7H)-one (224 mg), ammonium formate (500 mg), 10% palladium on carbon (210 mg), water (1 ml), ethanol (2 ml) and tetrahydrofuran (1 ml) was heated at 75° C. for 45 minutes and then cooled. Ammonium formate (300 mg), 10% palladium on carbon (100 mg), water (1 ml), and ethanol (2 ml) were added successively to the reaction mixture. Heating at 75° C. was continued for further 1 hour. After cooling, the reaction mixture was filtered and the filtrate was evaporated in vacuo. The residue was diluted with water and extracted three times with chloroform. The chloroform layer was washed with water and brine, dried over anhydrous magnesium sulfate, and evaporated in vacuo. Silica gel column chromatography of the residue (5% methanol-chloroform) gave 8,9-dihydro-10-methyl-7-[(5-methyl-1H-imidazol-4-yl)methyl] pyrido[1,2-a]indol-6(7H)-one (118 mg).

reactant | 8,9-dihydro-10-[(dimethylamino)methyl]-7-[(5-methyl-1H-imidazol-4-yl)methyl]pyrido[1,2-a]indol-6(7H)-one | 224 mg | CN(C)CC1=C2N(C3=CC=CC=C13)C(C(CC2)CC=2N=CNC2C)=O | C20H24N4O
reactant | ammonium formate | 500 mg | C(=O)[O-].[NH4+]
reactant | Ammonium formate | 300 mg | C(=O)[O-].[NH4+]
catalyst | palladium on carbon | 210 mg | [Pd] | Pd
catalyst | palladium on carbon | 100 mg | [Pd] | Pd
solvent | ethanol | 2 ml | C(C)O | C2H6O
solvent | water | 1 ml | O | H2O
solvent | tetrahydrofuran | 1 ml | O1CCCC1 | C4H8O
solvent | ethanol | 2 ml | C(C)O | C2H6O
solvent | water | 1 ml | O | H2O
product | 8,9-dihydro-10-methyl-7-[(5-methyl-1H-imidazol-4-yl)methyl] pyrido[1,2-a]indol-6(7H)-one | 118 mg | CC1=C2N(C3=CC=CC=C13)C(C(CC2)CC=2N=CNC2C)=O | C18H19N3O
